US07351719B2
195) (E)-N-[3-chloro-4-(3-diethylamino-propyl)-phenyl]-3-(2-chloro-4-trifluoromethyl-phenyl)-acrylamide
A solution of 0.290 g (0.603 mmol) (E)-N-[4-(3-bromo-propyl)-3-chloro-phenyl]-3-(2-chloro-4-trifluoromethyl-phenyl)-acrylamide (Z45d) in 2 mL diethylamine was heated to 100° C. in a sealed reaction vessel in the microwave for 5 min. The reaction mixture was diluted with EtOAc, the org. phase was washed with water, dried over sodium sulphate and evaporated down i. vac. The residue was triturated with ether, the precipitate was filtered off, washed with ether and dried in a HV.

reactant | (E)-N-[4-(3-bromo-propyl)-3-chloro-phenyl]-3-(2-chloro-4-trifluoromethyl-phenyl)-acrylamide | 0.603 mmol, 0.290 g | BrCCCC1=C(C=C(C=C1)NC(\C=C\C1=C(C=C(C=C1)C(F)(F)F)Cl)=O)Cl | C19H15BrCl2F3NO
solvent | diethylamine | 2 mL | C(C)NCC | C4H11N
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (E)-N-[3-chloro-4-(3-diethylamino-propyl)-phenyl]-3-(2-chloro-4-trifluoromethyl-phenyl)-acrylamide | ClC=1C=C(C=CC1CCCN(CC)CC)NC(\C=C\C1=C(C=C(C=C1)C(F)(F)F)Cl)=O | C23H25Cl2F3N2O
